data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3173,3581,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[N:13]=[N+:14]([CH3:15])[NH-:16]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[NH:16][N:14]([CH3:15])[N:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,26.214741248211823,-7.300115546528032
1148,1247,[CH3:12][NH:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[n-:20][n+:21]1[CH3:22].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[N:20]1[C:18](=[O:19])[O:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[N:21]1[CH3:22],water,298.15,28.71668842693357,1.341467942800857
5123,5816,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[NH+:14][C-:15]([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C:26](=[O:27])[NH:28][CH3:29].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16](=[O:17])[O:18][CH3:19])([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:26](=[O:27])[NH:28][CH3:29],water,298.15,27.485427020924767,-15.521666871702289
4985,5672,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]([C:19]([CH3:20])=[O:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:16]([CH3:17])[CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,20.490388739131348,-20.060184110206112
3399,3866,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([CH3:10])=[NH+:11][C-:12]([CH3:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:12]([CH3:13])([C:14](=[O:15])[O:16][CH3:17])[NH:11][C:9]1([C:7]([O:6][CH3:5])=[O:8])[CH3:10],water,298.15,24.546655228126124,-26.90691021831933
4783,5461,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[NH+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[NH:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,21.54448483438204,-10.224944884518765
2686,2984,[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[NH+:29][C-:30]([C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36]>>[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([O:23][CH3:22])=[O:25])([C:27]#[N:28])[NH:29][C:30]2([C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36],water,298.15,38.16435134220136,-1.3749690125180818
1743,1930,[CH2-:16][N+:17]([CH3:18])=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH2:16][N:17]([CH3:18])[C:19]2([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,18.80531776900201,-10.994310276539997
3659,4179,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8]#[N:9])=[O+:10][C-:11]([C:12](=[O:13])[NH:14][CH3:15])[C:16](=[O:17])[NH:18][CH3:19]>>[CH2:1]1[CH2:2][C:11]([C:12](=[O:13])[NH:14][CH3:15])([C:16](=[O:17])[NH:18][CH3:19])[O:10][C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8]#[N:9],water,298.15,5.401460042272595,-61.29838399212876
4122,4717,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17]2([C:18]#[N:19])[O:20][C:21]1=[O:22],water,298.15,6.596534793616402,-21.439812517206505
1610,1779,[CH2:1]=[C:2]([O:3][CH3:4])[O:5][CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24](=[O:25])[O:26][CH3:27]>>[CH2:1]1[C:2]([O:3][CH3:4])([O:5][CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:24](=[O:25])[O:26][CH3:27])[NH:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,29.36404010444146,-14.793171744117208
709,770,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[O-:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([O:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[O:21]3,water,298.15,33.27697891984888,-14.923237038715598
